US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 6-bromo-1-(4-amino-5-chloro-2-methoxyphenyl)-l-hexanone are reacted and treated in the same manner as in Example 199 to give 4-amino-5-chloro-2-methoxy-N-((1-(6-(4-amino-5-chloro-2-methoxyphenyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(4-amino-5-chloro-2-methoxyphenyl)-l-hexanone | BrCCCCCC(=O)C1=C(C=C(C(=C1)Cl)N)OC | C13H17BrClNO2
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(4-amino-5-chloro-2-methoxyphenyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=C(C=C(C(=C2)Cl)N)OC)C=C1Cl)OC | C27H36Cl2N4O4
